US04366156
6,7-DIHYDRO-4-(2-METHYLPROPYL)-6,6-DIMETHYL-3H-IMIDAZO[1,2-a]PURIN-9(4H)-ONE 7-Amino-2,3-dihydro-2,2-dimethyl-8-(2-methylpropyl)-6-nitrosoimidazo[1,2-a]pyrimidin-5(8H)-one was prepared by reaction of the 2-methylthio-4,4-dimethyl-2-imidazoline hydrochloride with 2-methylpropylamine according to the method of Procedure 103 by substitution of the latter for p-chlorobenzylamine. The reaction product from this step was then condensed with ethyl oximinocyanoacetate as described in Procedure 103. The resulting nitroso compound was then reduced with sodium dithionate in formic acid and the resulting formylamino compound was cyclized with dilute aqueous sodium hydroxide according to Procedure 100.

reactant | 2-methylthio-4,4-dimethyl-2-imidazoline hydrochloride | Cl.CSC=1NCC(N1)(C)C
reactant | 2-methylpropylamine | CC(CN)C | C4H11N
reactant | p-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | ethyl oximinocyanoacetate | N(O)=C(C(=O)OCC)C#N | C5H6N2O3
reactant | sodium dithionate | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | formic acid | C(=O)O | CH2O2
product | 6,7-DIHYDRO-4-(2-METHYLPROPYL)-6,6-DIMETHYL-3H-IMIDAZO[1,2-a]PURIN-9(4H)-ONE 7-Amino-2,3-dihydro-2,2-dimethyl-8-(2-methylpropyl)-6-nitrosoimidazo[1,2-a]pyrimidin-5(8H)-one | NC=1N(C=2N(C(C1N=O)=O)CC(N2)(C)C)CC(C)C.CC(CN2C=1N(C(C=3N=CNC23)=O)CC(N1)(C)C)C | InChI=1S/C13H19N5O.C12H19N5O2/c1-8(2)5-17-10-9(14-7-15-10)11(19)18-6-13(3,4)16-12(17)18;1-7(2)5-16-9(13)8(15-19)10(18)17-6-12(3,4)14-11(16)17/h7-8H,5-6H2,1-4H3,(H,14,15);7H,5-6,13H2,1-4H3
